US06103762
(d) methyl 2-hydroxy-4-[3-(4,4-dimethylthiochroman-8-yl)prop-1-ynyl]benzoate
670 mg (3.1 mmol) of 3-(4,4-dimethylthiochroman-8-yl)prop-1-yne, 860 mg (3.1 mmol) of methyl 2-hydroxy-4-iodobenzoate and 33 ml of triethylamine are introduced into a three-necked flask under argon. The reaction mixture is degassed by sparging with nitrogen, 174 mg (0.25 mmol) of bis(triphenylphosphine)palladium(II) chloride and 71 mg of copper iodide are introduced and the reaction mixture is stirred at room temperature for eight hours. The reaction mixture is evaporated to dryness, the residue is taken up in ethyl acetate and hydrochloric acid (1N) and the organic phase is separated by settling, dried over magnesium sulphate and evaporated. The residue is purified by chromatography on a silica column eluted with a mixture composed of 99% heptane and 1% ethyl acetate. After evaporating the solvents, 1.50 g (75%) of methyl 2-hydroxy-4-[3-(4,4-dimethylthiochroman-8-yl)prop-1-ynyl]benzoate are collected in the form of a yellow oil.

reactant | 3-(4,4-dimethylthiochroman-8-yl)prop-1-yne | 3.1 mmol, 670 mg | CC1(CCSC2=C(C=CC=C12)CC#C)C | C14H16S
reactant | methyl 2-hydroxy-4-iodobenzoate | 3.1 mmol, 860 mg | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.25 mmol, 174 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 71 mg | [Cu](I)I
solvent | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
product | methyl 2-hydroxy-4-[3-(4,4-dimethylthiochroman-8-yl)prop-1-ynyl]benzoate | OC1=C(C(=O)OC)C=CC(=C1)C#CCC=1C=CC=C2C(CCSC12)(C)C | C22H22O3S
